US08211897B2
To tert-butyl (2S)-1-((2S,4R)-4-(5-chloro-pyridin-2-yloxy)-2-((2S)-1-cyclobutyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-ylcarbamoyl)pyrrolidin-1-yl)-3,3-dimethyl-1-oxobutan-2-ylcarbamate (313 mg, 0.482 mmol) in dichloromethane (2 mL) was added 4.0 M HCl in dioxane (3.0 mL). After 1 hour, the reaction mixture was concentrated under reduced pressure and dried to give (2S,4R)-1-((S)-2-amino-3,3-dimethylbutanoyl)-4-(5-chloro-pyridin-2-yloxy)-N-((2S)-1-cyclobutyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-yl)pyrrolidine-2-carboxamide HCl salt as a white solid.

reactant | tert-butyl (2S)-1-((2S,4R)-4-(5-chloro-pyridin-2-yloxy)-2-((2S)-1-cyclobutyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-ylcarbamoyl)pyrrolidin-1-yl)-3,3-dimethyl-1-oxobutan-2-ylcarbamate | 0.482 mmol, 313 mg | ClC=1C=CC(=NC1)O[C@@H]1C[C@H](N(C1)C([C@H](C(C)(C)C)NC(OC(C)(C)C)=O)=O)C(N[C@@H](CC1CCC1)C(C(=O)NC1CC1)O)=O | C32H48ClN5O7
reactant | HCl | 4.0 M | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | (2S,4R)-1-((S)-2-amino-3,3-dimethylbutanoyl)-4-(5-chloro-pyridin-2-yloxy)-N-((2S)-1-cyclobutyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-yl)pyrrolidine-2-carboxamide HCl salt | Cl.N[C@H](C(=O)N1[C@@H](C[C@H](C1)OC1=NC=C(C=C1)Cl)C(=O)N[C@@H](CC1CCC1)C(C(=O)NC1CC1)O)C(C)(C)C | InChI=1S/C27H40ClN5O5.ClH/c1-27(2,3)23(29)26(37)33-14-18(38-21-10-7-16(28)13-30-21)12-20(33)24(35)32-19(11-15-5-4-6-15)22(34)25(36)31-17-8-9-17;/h7,10,13,15,17-20,22-23,34H,4-6,8-9,11-12,14,29H2,1-3H3,(H,31,36)(H,32,35);1H/t18-,19+,20+,22?,23-;/m1./s1
